US04284644
5-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (1.75 g.) and methyl isothiocyanate (1.1 g.) were stirred in acetonitrile (60 ml.) at room temperature for 15 hours, and then the mixture was refluxed under heating for 3 hours. The solvent was evaporated off under reduced pressure, and the residue was recrystallized from methanol to give yellow prisms of 5-methylthioureidospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one (1.62 g.). m.p. 191°-194° C.

reactant | 5-Aminospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 1.75 g | NC1=CC2=C(OC3(CC3)C2=O)C=C1 | C10H9NO2
reactant | methyl isothiocyanate | 1.1 g | CN=C=S | C2H3NS
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 5-methylthioureidospiro[benzo[b]furan-2(3H),1'-cyclopropane]-3-one | 1.62 g | CNC(NC1=CC2=C(OC3(CC3)C2=O)C=C1)=S | C12H12N2O2S
